US08871903B2
5-bromothiophene-2-carboxylic acid
THF (50 mL) was added via cannula to a flame-dried 100 mL Schlenk flask. 2,5-dibromothiophene (10 mmol, 2.42 g) was added via syringe. Reaction vessel was cooled to −78° C. and n-butyllithium (1.61M solution in hexanes, 11 mmol, 6.8 mL) was added dropwise over 5 minutes. The solution was allowed to stir at −78° C. for 1 hr. Dry ice (approx. 50 g) was added to the reaction mixture, and was allowed to stir and return to room temperature for 18 hrs. under nitrogen. The light gray suspension was filtered and the white solid was stirred in 2M HCl for 1 hr. The suspension was filtered to yield a white solid (5.7 mmol, 1.2 g, 57%). 1H NMR (400 MHz, CDCl3) δ: 11.45 (br s, 1H), 7.64 (d, 1H, J=4.0 Hz), 7.11 (dd, 1H, J=4.0 Hz).

reactant | 2,5-dibromothiophene | 10 mmol, 2.42 g | BrC=1SC(=CC1)Br | C4H2Br2S
reactant | n-butyllithium | 11 mmol, 1.61M, 6.8 mL | C(CCC)[Li]
reactant | Dry ice | approx. 50 g | C(=O)=O | CO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-bromothiophene-2-carboxylic acid | 5.7 mmol, 1.2 g, 57% | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
